US06969713B2
i) Cis-2-(3,5-Dimethyl-piperazin-1-yl)-N-(quinolin-5-yl)acetamide
A mixture of 2-chloro-N-(quinolin-5-yl)acetamide (7.76 g) (J. Indian Chem Soc, 1940, 17, 619-621), cis-2,6-dimethylpiperazine (4.42 g), sodium bicarbonate (8.9 g) in ethanol (100 ml) was heated at reflux for 4 h. The solvent was removed under reduced pressure. The residue was partitioned between chloroform and brine. The organic phase collected and the aqeuous phase further extracted (×6) with chloroform. The combined extracts dried (MgSO4) and solvent removed under reduced pressure. Yield: 6.8 g

reactant | 2-chloro-N-(quinolin-5-yl)acetamide | 7.76 g | ClCC(=O)NC1=C2C=CC=NC2=CC=C1 | C11H9ClN2O
reactant | cis-2,6-dimethylpiperazine | 4.42 g | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | sodium bicarbonate | 8.9 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Cis-2-(3,5-Dimethyl-piperazin-1-yl)-N-(quinolin-5-yl)acetamide | C[C@@H]1CN(C[C@@H](N1)C)CC(=O)NC1=C2C=CC=NC2=CC=C1 | C17H22N4O
